US06486155B1
A solution of N-methyl-2-chlorobenzamide (13.0 g) in tetrahydrofuran (300 ml) is cooled to −70° C., and thereto is added dropwise a 1.3M solution of sec-butyl lithium in cyclohexane (130 ral) over a period of 20 minutes. The mixture is stirred at −60° C. for 30 minutes, and thereto is added dropwise a solution of 3,4,5-trimethoxybenzaldehyde (15.0 g) in tetrahydrofuran (100 ml) over a period of 10 minutes. The mixture is stirred at the same temperature for one hour, and thereto are added water and ethyl acetate (300 ml). The ethyl acetate layer is separated, washed, dried, and concentrated under reduced pressure. The residue is crystallized from diethyl ether to give N-methyl-2-chloro-6-[hydroxy-(3,4,5-trimethoxyphenyl)methyl]benzamide (19.2 g) as listed in Table 54.

reactant | N-methyl-2-chlorobenzamide | 13.0 g | CNC(C1=C(C=CC=C1)Cl)=O | C8H8ClNO
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 3,4,5-trimethoxybenzaldehyde | 15.0 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-2-chloro-6-[hydroxy-(3,4,5-trimethoxyphenyl)methyl]benzamide | 19.2 g | CNC(C1=C(C=CC=C1C(C1=CC(=C(C(=C1)OC)OC)OC)O)Cl)=O | C18H20ClNO5
